US04990526
Step A: Preparation of 4-(Methylthio)phenyl-propan-1-one
To a solution of thioanisole (5 g) and propionyl chloride (3.9 ml) in dichloroethane (80 ml) at 0° C. was added, in portions, aluminum chloride (6.4 g). The mixture was stirred overnight at room temperature. The reaction mixture was poured onto a mixture of ice and water (200 ml) and concentrated HCl (2 ml) and extracted with CH2Cl2. The combined organic layers were washed with water, dried over Na2SO4 and purified on a silica gel column (140 g) using hexane/EtOAc (10:1) as eluant to afford the title compound as a white solid, m.p. 60°-61° C.

reactant | thioanisole | 5 g | C1(=CC=CC=C1)SC | C7H8S
reactant | propionyl chloride | 3.9 ml | C(CC)(=O)Cl | C3H5ClO
reactant | aluminum chloride | 6.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 2 ml | Cl | ClH
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 200 ml | O | H2O
product | 4-(Methylthio)phenyl-propan-1-one | CSC1=CC=C(C=C1)C(CC)=O | C10H12OS
